US04255585
14 g (0.1 mole) of aluminium chloride are introduced little by little in a solution of 16 g (0.09 mole) of 2,3-dichloro-anisol and 16 g (0.09 mole) of 2-benzofurancarboxylic acid chloride in 200 ml of methylene chloride the mixture is taken up to reflux for 4 hours, then poured on crushed ice (300 g) and concentrated hydrochloric acid (10 ml); the precipitate is filtered off, washed with an aqueous solution of sodium hydroxide (10 N), then with water and dried. 22 g of 2-benzofuryl (2,3-dichloro-4-methoxy-phenyl) ketone are obtained. Melting point 148° C. after crystallization from ethylacetate.

reactant | aluminium chloride | 0.1 mole, 14 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,3-dichloro-anisol | 0.09 mole, 16 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | 2-benzofurancarboxylic acid chloride | 0.09 mole, 16 g | O1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClO2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-benzofuryl (2,3-dichloro-4-methoxy-phenyl) ketone | 22 g | ClC1=C(C=CC(=C1Cl)OC)C(=O)C=1OC2=C(C1)C=CC=C2 | C16H10Cl2O3
